US07521448B2
1-(4-{[3-(Hydroxymethyl)cyclobutyl]oxy}phenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide (33 mg, 0.08 mmol) was dissolved in DMF and put under N2 atmosphere. Sodium hydride (2 mg, 0.08 mmol) was added and the reaction was heated to 60° C. 2-Fluoropyridine was then added and the reaction was then heated to 80° C. for 14 h. The reaction was cooled to rt and concentrated in vacuo. The crude solid was purified using the Waters mass-directed HPLC purification system to provide 1-(4-{[3-(2-pyridyloxymethyl)cyclobutyl]oxy}phenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide as an off-white solid. MS (ES+): m/z 507 (10) [MH+].

reactant | 1-(4-{[3-(Hydroxymethyl)cyclobutyl]oxy}phenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | 0.08 mmol, 33 mg | OCC1CC(C1)OC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C25H24N4O3
reactant | Sodium hydride | 0.08 mmol, 2 mg | [H-].[Na+]
reactant | 2-Fluoropyridine | FC1=NC=CC=C1 | C5H4FN
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-{[3-(2-pyridyloxymethyl)cyclobutyl]oxy}phenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | N1=C(C=CC=C1)OCC1CC(C1)OC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C30H27N5O3
